US04415573
Bis(trimethylsilyl)-5-fluorouracil prepared from 5-fluorouracil (10 g), and 2-2,6-dichlorophenyl-1,3-dioxolan (32.0 g) which had been prepared from 2,6-dichlorobenzaldehyde and ethylene glycol were subjected to reaction as in Example 10. Following adding chloroform (100 ml), the reaction mixture was washed twice with a cold saturated NaCl aqueous solution, and then aqueous sodium bicarbonate, and water, and dried over anhydrous magnesium sulfate. The solvent was evaporated off and the residue was purified by column chromatography using silica gel and acetone-chloroform (1:4) as an eluant to give 6.9 g of crystalline 1-[α-(2-hydroxyethoxy)-2,6-dichlorobenzyl]-5-fluorouracil.

reactant | Bis(trimethylsilyl)-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[α-(2-hydroxyethoxy)-2,6-dichlorobenzyl]-5-fluorouracil | 6.9 g | OCCOC(C1=C(C=CC=C1Cl)Cl)N1C(=O)NC(=O)C(=C1)F | C13H11Cl2FN2O4
